US06303593B1
3-(SR)-(4-phenylpiperidinylmethyl)-4-(RS)-(3-thienyl)pyrrolidine
A solution of 0.19 g (0.47 mmol) of 1-allyloxycarbamoyl-3-(SR)-(4-phenylpiperidinylmethyl)-4-(RS)-(3-thienyl)pyrrolidine, 0.52 g (9.4 mmol) KOH and 0.23 mL (4.7 mmol) of hydrazine hydrate in 5 mL of ethylene glycol was heated at 140° C. for 12 h. The reaction mixture was cooled to rt and diluted with ether. The reaction mixture was washed 3 times with H2O, dried over Na2SO4, filtered and the filtrate was concentrated to give 0.13 g of the title compound. 1H NMR (CDCl3) δ7.22-7.37 (m, 7H), 7.04 (d, 1H, J=4.3 Hz), 3.32-3.39 (m, 2H), Mass Spectrum (CI) m/e=327 (M+1).

reactant | 1-allyloxycarbamoyl-3-(SR)-(4-phenylpiperidinylmethyl)-4-(RS)-(3-thienyl)pyrrolidine | 0.47 mmol, 0.19 g | C(C=C)ONC(=O)N1CC(C(C1)C1=CSC=C1)CN1CCC(CC1)C1=CC=CC=C1 | C24H31N3O2S
reactant | KOH | 9.4 mmol, 0.52 g | [OH-].[K+]
reactant | hydrazine hydrate | 4.7 mmol, 0.23 mL | O.NN
solvent | ethylene glycol | 5 mL | C(CO)O | C2H6O2
solvent | ether | CCOCC | C4H10O
product | 3-(SR)-(4-phenylpiperidinylmethyl)-4-(RS)-(3-thienyl)pyrrolidine | 0.13 g | C1(=CC=CC=C1)C1CCN(CC1)CC1CNCC1C1=CSC=C1 | C20H26N2S
